US06498163B1
To a suspension of NaH (261 mg of a 60% suspension of NaH in mineral oil) in 40 mL of dimethylformamide was added 6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (926 mg, 4.48 mmol). The reaction mixture was heated to 50° C. resulting in a clear solution. The solution was cooled slightly, and iodoethane (491 μL, 6.14 mmol) was added. The reaction was heated at 50° C. for 10 minutes, then cooled to room temperature and partitioned between ice water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was partitioned between hexane and water. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Hexane was added and the resultant solid collected by filtration to provide 824 mg (78%) of 8-ethyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one, mp 84-86° C.

reactant | NaH | [H-].[Na+]
reactant | 6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 4.48 mmol, 926 mg | CC1=CC2=C(N=C(N=C2)SC)NC1=O | C9H9N3OS
reactant | iodoethane | 6.14 mmol, 491 μL | ICC | C2H5I
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 8-ethyl-6-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 824 mg, 78% | C(C)N1C(C(=CC2=C1N=C(N=C2)SC)C)=O | C11H13N3OS
